US07612075B2
A. 2-(2-Oxo-4-prop-2-ynyl-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester.
A solution containing 2-(2-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (4.3 g, 13.0 mmol), EXAMPLE 69, in CH3CN (250 mL) is cooled to 0° C. Potassium carbonate (1.98 g, 14.3 mmol) is added to the reaction mixture followed by propargyl bromide (1.55 g, 13.0 mmol). The mixture is slowly warmed to ambient temperature and maintained until complete consumption of starting material is observed by TLC (approx. 8 h). The mixture is concentrated to dryness and then partitioned between aqueous NaHCO3 (200 mL) and CH2Cl2 (200 mL) and the layers are separated. The aqueous phase is extracted twice with CH2Cl2 (100 mL) and the combined organic phase is washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude residue is purified by flash silica gel chromatography (CH2Cl2 to 5% MeOH/CH2Cl2) to provide 3.38 g (70%) of the title compound as a pale yellow solid. 1H NMR (300 MHz, CDCl3) δ1.69 (s, 9H), 2.34 (t, J=2.4 Hz, 1H), 2.89 (m, 2H), 3.42 (s, 2H), 3.45 (d, J=2.4 Hz, 2H), 3.52 (m, 2H), 4.95 (d, J=1.4 Hz, 2H), 6.42 (br s, 1H), 7.88 (dd, J=5.8, 0.8 Hz, 1H), 8.41 (d, J=5.8 Hz, 1H), 8.78 (d, J=0.8 Hz, 1H) ppm; MS (EI): m/z 368 (M+).

reactant | 2-(2-oxo-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 13.0 mmol, 4.3 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CNCC2)=O | C17H22N4O3
reactant | Potassium carbonate | 14.3 mmol, 1.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 13.0 mmol, 1.55 g | C(C#C)Br | C3H3Br
solvent | CH3CN | 250 mL | CC#N | C2H3N
product | 2-(2-Oxo-4-prop-2-ynyl-piperazin-1-ylmethyl)-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 3.38 g, 70% | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)CC#C)=O | C20H24N4O3
